US05234946
Ethyl 3-phenethylbenzoate (180 mg) was dissolved in 2 ml of anhydrous tetrahydrofuran, and under ice cooling, 42 mg of lithium aluminum hydride was added by portions over 5 minutes. The mixture was stirred for one hour under ice cooling. Water (10 ml) was added to the reaction mixture to decompose the excess of the reducing agent. The mixture was then extracted with 20 ml of ethyl ether. The extract was separated, washed with a saturated aqueous sodium chloride solution, and dried over anhydrous sodium sulfate. The solvent was evaporated to give 140 mg (yield 93%) of 3-phenethylbenzyl alcohol.

reactant | Ethyl 3-phenethylbenzoate | 180 mg | C(CC1=CC=CC=C1)C=1C=C(C(=O)OCC)C=CC1 | C17H18O2
reactant | lithium aluminum hydride | 42 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 10 ml | O | H2O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 3-phenethylbenzyl alcohol | 140 mg, yield 93% | C(CC1=CC=CC=C1)C=1C=C(CO)C=CC1 | C15H16O
